US06573262B2
A solution of 2-bromo-5-fluoronitrobenzene (4.4 g, 20 mmol) in dry THF (200 mL) under N2 was cooled to −65° C. (acetone/CO2). A solution of vinylmagnesium bromide (60 mL, 1 M, 60 mmol) in THF was added to the nitrobenzene solution as rapidly as possible maintaining the reaction temperature below −40° C. After addition of the Grignard reagent, the cooling bath was switched to a −40° C. bath (CH3CN/CO2), and the mixture was stirred at −40° C. for 30 min. The reaction mixture was quenched with sat. NH4Cl solution (500 mL) and extracted with ether (2×200 mL), then dried (brine, Na2SO4) and concentrated in vacuo. The resulting material was purified by SiO2 flash column chromatography (5:95) EtOAc/Hexanes to give 4-fluoro-7-bromoindole, as a light brown oil (2.03 g, 9.5 mmol, 54%). 1H NMR (CDCl3) δ 6.72 (m, 2H), 7.24 (m, 2H), 8.4 (br s, 1H). MS m/e 215 (MH+).

reactant | 2-bromo-5-fluoronitrobenzene | 20 mmol, 4.4 g | BrC1=C(C=C(C=C1)F)[N+](=O)[O-] | C6H3BrFNO2
reactant | acetone CO2 | CC(=O)C.C(=O)=O
reactant | vinylmagnesium bromide | 60 mmol, 1 M, 60 mL | C(=C)[Mg]Br
reactant | nitrobenzene | [N+](=O)([O-])C1=CC=CC=C1 | C6H5NO2
reactant | CH3CN CO2 | CC#N.C(=O)=O
solvent | THF | 200 mL | C1CCOC1 | C4H8O
product | 4-fluoro-7-bromoindole | FC1=C2C=CNC2=C(C=C1)Br | C8H5BrFN
